US06114532
a. 4-[(5-nitro-1H-benzimidazol-2-yl)-methyl]-benzonitrile
3.1 g (0.02 mol) of 4-nitro-o-phenylenediamine and 3.7 g (0.023 mol) of 4-cyanophenylacetic acid are refluxed for 2 hours in 30 ml of phosphorus oxychloride. After cooling the mixture is neutralised with concentrated ammonia and extracted with ethyl acetate. The combined organic extracts are dried over sodium sulphate and concentrated by evaporation. The residue is chromatographed on silica gel, eluting with methylene chloride/methanol (50:1). The desired fractions are concentrated by evaporation, the residue is triturated with ethyl acetate/ether, suction filtered and dried.

reactant | 4-nitro-o-phenylenediamine | 0.02 mol, 3.1 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | 4-cyanophenylacetic acid | 0.023 mol, 3.7 g | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
reactant | ammonia | N | H3N
solvent | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-[(5-nitro-1H-benzimidazol-2-yl)-methyl]-benzonitrile | [N+](=O)([O-])C1=CC2=C(NC(=N2)CC2=CC=C(C#N)C=C2)C=C1 | C15H10N4O2
